* C:\Users\robyr\Documents\GitHub\CPSA_project_infineon\CPSA_prject\CPSA_project.asc
L1 N002 OUT1 220n Rser=2m
R2 OUT1 N004 200K
R3 N004 0 100K
C1 OUT1 N004 15p
R_core OUT1 0 3
C3 N003 0 4.7n
XU1 IN IN N002 N004 0 0 N007 N001 IN N006 N003 LTC3310S
C4 N005 0 220p
R4 N006 N005 10K
C2 OUT1 0 47µ
R1 OUT1 N001 500K
R5 N007 0 274K
V1 IN 0 5.5 Rser=0.1
L2 N009 OUT2 220n Rser=2m
R7 OUT2 N011 560K
R8 N011 0 100K
C5 OUT2 N011 15p
R_I/O OUT2 0 15
C7 N010 0 4.7n
XU2 IN IN N009 N011 0 0 N014 N008 IN N013 N010 LTC3310S
C8 N012 0 220p
R9 N013 N012 10K
C6 OUT2 0 47µ
R6 OUT2 N008 500K
R10 N014 0 274K
C9 OUT3 0 20µ
R_sensor OUT3 0 82.5
XU4 N016 N016 0 OUT3 OUT3 LT1965-x.x R=20.52K
L3 N017 N016 220n Rser=2m
R12 N016 N019 600K
R13 N019 0 100K
C10 N016 N019 15p
C11 N018 0 4.7n
XU3 IN IN N017 N019 0 0 N022 N015 IN N021 N018 LTC3310S
C12 N020 0 220p
R14 N021 N020 10K
C13 N016 0 47µ
R15 N016 N015 500K
R16 N022 0 274K
C14 IN 0 10µ
C15 IN 0 10µ
C16 IN 0 10µ
C17 N016 0 10µ
.tran 200u
.lib LT1965.lib
.lib LTC3310S.sub
.backanno
.end
